### PR TITLE
Update to latest mathlib

### PR DESCRIPTION
**Pull request by tobiasgrosser**
- This updates to lean 4.6.0
- BitVec is still in std4 (to be in Lean4 from 4.7.0)
- Import the 'CommRing' instance into a file ForMathlib such that we can track Mathlib master

We have currently 47 out of 107 statements proven correct.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
This is ready to review. However, I have the following open questions:

> Why is BitVec.negOne_eq_allOnes not a standard simp lemma? Or rather, why do we rewrite -1 to allOnes. That seems to be an unnecessary complication, no?

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 1]
```diff
@@ -34,19 +34,6 @@ variable (q t : Nat) [ hqgt1 : Fact (q > 1)] (n : Nat)
 -- see: https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Way.20to.20recover.20computability.3F/near/322382109
 -- and :https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Groebner.20bases
 
--- Question: Can we make something like d := 2^n work as a macro?
```
Comment (goens) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:37]: Why is this comment removed? This is still an interesting/valid question

File: SSA/Projects/InstCombine/AliveStatements.lean [hunk 2]
```diff
@@ -9,8 +10,11 @@ open Std.BitVec
 open LLVM
 
 @[simp] lemma getLsb_negOne' (w : ℕ) (i : Fin w) :
-    getLsb (-1#w) ↑i := by 
-  simp only [getLsb_val_eq_getLsb', getLsb'_neg_ofNat_one]
+    getLsb (-1#w) i := by
```
Comment (goens) [inline SSA/Projects/InstCombine/AliveStatements.lean:13]: I'm confused from seeing changes in this file. This is an auto-generated file, I thought we were not going to manually change this file anymore.

File: SSA/Projects/InstCombine/ForMathlib.lean [hunk 3]
```diff
@@ -0,0 +1,30 @@
...
+  case succ w =>
+    simp only [Int.cast, IntCast.intCast, BitVec.ofInt]
+    unfold Int.castDef
+    cases' z with z z
+    · rfl
+    · simp only [cast_add, cast_one, neg_add_rev]
+      rw [← add_ofFin, ofFin_neg, ofFin_ofNat, ofNat_eq_ofNat, ofFin_neg, ofFin_natCast,
+        natCast_eq, negOne_eq_allOnes, ← sub_toAdd, allOnes_sub_eq_not]
+
+theorem toFin_intCast (z : ℤ) : toFin (z : BitVec w) = z := by
```
Comment (goens) [inline SSA/Projects/InstCombine/ForMathlib.lean:22]: would something like `@[norm_cast]` make sense here?

**Review by goens — CHANGES_REQUESTED** [review]

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 1 above)
Comment (tobiasgrosser) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:37]: Right. I will add it back.

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 2 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveStatements.lean:13]: @goens, what is the process to get this file updated properly? Happy to follow your suggestions here.

File: SSA/Projects/InstCombine/ForMathlib.lean (hunk 3 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/ForMathlib.lean:22]: I have no idea. How would that work? Why would that be preferred?

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 2 above)
Comment (goens) [reply SSA/Projects/InstCombine/AliveStatements.lean:13]: that's a good question, I don't know if we've refined this properly, we talked about it before the rebuttal, maybe @bollu remembers what the final process was? Ideally, these changes would go into the `alive_auto` tactic or the `extract_alive_statements.sh` script.

File: SSA/Projects/InstCombine/ForMathlib.lean (hunk 3 above)
Comment (goens) [reply SSA/Projects/InstCombine/ForMathlib.lean:22]: this is a very minor comment/question, mostly interesting later for upstreaming. `norm_cast` is a tactic that handles all of these coercions (see https://lean-forward.github.io/norm_cast/norm_cast.pdf) and the tag is like the `@[simp]` tag to tell the tactic which lemmas to use for these coercions.

Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/ForMathlib.lean:22]: To be honest, I just copied this from alex Mathlib pr without thinking too much about it. I guess we can refine this in the upstreaming process.

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 2 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveStatements.lean:13]: Right. Maybe document the processes here among the two of you. I can then follow this process to regenerate this file.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 1 above)
Comment (tobiasgrosser) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:37]: https://github.com/opencompl/ssa/pull/192
